US07456164B2
4-{3-[4-(4-Cyanotetrahydropyran-4-yl)-phenoxy]propyl}-piperazine-1-carboxylic acid ethyl ester
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile (500 mg, 2.46 mmol), 4-(3-chloro-propyl)-piperazine-1-carboxylic acid ethyl ester (570 mg, 2.43 mmol), DMF (10 ml) and K2CO3 (1.36 g, 9.84 mmol) were reacted together according to general procedure E. The organic phase was washed with 2M NaOH (3.×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. The crude product was subjected to chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1) to provide the title compound (280 mg, 28%) as an off white solid. 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.93 (d, 2H), 4.14 (q, 2H), 4.11-4.05 (m, 2H), 4.03 (t, 2H), 3.89 (td, 2H), 3.55-3.42 (m, 4H), 2.53 (t, 2H), 2.47-2.36 (m, 4H), 2.15-1.92 (m, 6H), 1.26 (t, 3H).

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 2.46 mmol, 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | 4-(3-chloro-propyl)-piperazine-1-carboxylic acid ethyl ester | 2.43 mmol, 570 mg | C(C)OC(=O)N1CCN(CC1)CCCCl | C10H19ClN2O2
reactant | K2CO3 | 9.84 mmol, 1.36 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-{3-[4-(4-Cyanotetrahydropyran-4-yl)-phenoxy]propyl}-piperazine-1-carboxylic acid ethyl ester | 280 mg, 28% | C(C)OC(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C22H31N3O4
